US04599361
A mixture of 3-(ethoxycarbonyl)-2-(2-methylpropyl)butanoic acid (7.5 g., 0.037 mol.) and dichloromethane (70 mls.) was stirred and cooled to 0° C. To the mixture was added dropwise a solution of N,N'-dicyclohexylcarbodiimide (7.6 g., 0.37 mol.) in dichloromethane (20 mls.) and the reaction mixture was allowed to warm to room temperature. A solution of O-methyl-L-tyrosine N-methylamide (7.7 g., 0.037 mol.) in dichloromethane (45 mls.) was added to the reaction mixture and the resulting mixture was stirred overnight at room temperature. A saturated sodium bicarbonate solution (100 mls.) was added to the reaction mixture and the resulting mixture was stirred for an additional hour. The reaction mixture was filtered and the organic layer recovered and then dried on anhydrous sodium sulfate. The solvent was removed by evaporation in vacuo to yield a sticky brown solid. The solid was purified by chromatography on normal phase silica eluting with 20% hexane in ethyl acetate to yield N-[3-(ethoxycarbonyl)-2-(2-methylpropyl)butanoyl]-O-methyl-L-tyrosine N-methylamide as a mixture of 4 diastereomers.

reactant | 3-(ethoxycarbonyl)-2-(2-methylpropyl)butanoic acid | 0.037 mol, 7.5 g | C(C)OC(=O)C(C(C(=O)O)CC(C)C)C | C11H20O4
reactant | N,N'-dicyclohexylcarbodiimide | 0.37 mol, 7.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | O-methyl-L-tyrosine N-methylamide | 0.037 mol, 7.7 g | CNC([C@@H](N)CC1=CC=C(C=C1)OC)=O | C11H16N2O2
reactant | sodium bicarbonate | 100 mls | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 mls | ClCCl | CH2Cl2
solvent | dichloromethane | 45 mls | ClCCl | CH2Cl2
solvent | dichloromethane | 70 mls | ClCCl | CH2Cl2
product | N-[3-(ethoxycarbonyl)-2-(2-methylpropyl)butanoyl]-O-methyl-L-tyrosine N-methylamide | CNC([C@@H](NC(C(C(C)C(=O)OCC)CC(C)C)=O)CC1=CC=C(C=C1)OC)=O | C22H34N2O5
